US20010006969A1
2-Acetylamino-4-allylamino-6-nitroquinazoline
After 100 mg (0.41 mmol) of 4-allylamino-2-amino-6-nitroquinazoline was dissolved in 10 ml of acetonitrile, 84 mg (0.82 mmol) of acetic anhydride and 0.06 ml (0.45 mmol) of triethylamine were added thereto, and then the reaction mixture was subjected to heating under reflux overnight. Water was added to the reaction solution, followed by extraction with ethyl acetate, washing successively with a saturated aqueous sodium hydrogen carbonate solution and brine and drying over anhydrous sodium sulfate. The solvent was distilled off, followed by recrystallization from ethyl acetate-hexane to give 95 mg (80.7%) of the title compound.

reactant | 4-allylamino-2-amino-6-nitroquinazoline | 0.41 mmol, 100 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])N | C11H11N5O2
reactant | acetic anhydride | 0.82 mmol, 84 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.45 mmol, 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-Acetylamino-4-allylamino-6-nitroquinazoline | 95 mg, 80.7% | C(C)(=O)NC1=NC2=CC=C(C=C2C(=N1)NCC=C)[N+](=O)[O-] | C13H13N5O3
